US06927303B2
According to the similar procedure in Synthesis Example 1, by using 5-amino-2-nitrobenzoic acid (1.03 g, 5.65 mmole) and 2,3,5,6-tetrafluoro-4-trifloromethylbenzyl bromide (1.01 g, 6.04 mmole)(ACROS, 33074-0010), 1.50 g (76.3% yield) of 2-nitro-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid was obtained as a pale yellow solid.

reactant | 5-amino-2-nitrobenzoic acid | 5.65 mmole, 1.03 g | NC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H6N2O4
reactant | 2,3,5,6-tetrafluoro-4-trifloromethylbenzyl bromide | 6.04 mmole, 1.01 g | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
product | 2-nitro-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 1.50 g, 76.3% yield | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C15H7F7N2O4
